US08802864B2
5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4′-(methyloxy)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one
A vial was charged with a slurry of 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one (100 mg, 0.256 mmol), [4-(methyloxy)phenyl]boronic acid (78 mg, 0.511 mmol), tetrakis(triphenylphosphine)palladium(0) (29.5 mg, 0.026 mmol) and tripotassium phosphate (217 mg, 1.022 mmol) in ethanol (4.0 mL) and water (4.00 mL) then purged with nitrogen and sealed with a standard teflon septa (crimped aluminum seal). The reaction was then heated in an aluminum block at 110° C. for 3 h. The resulting yellow slurry was diluted with ethanol then evaporated to dryness under reduced pressure. The residue was triturated from dichloromethane then the decanted solution was applied directly to a standard stock silica column (Analogix SF25-40 g) and eluted first with 100% ethyl acetate for 5 min and then with 7% methanol in dichloromethane. The combined desired fractions were evaporated to a colorless oil that was crystallized from hexanes/ethyl acetate to afford the title compound as a white solid (78 mg, 72.2%). MS(ES)+ m/e 419.2 [M+H]+.

reactant | 4-(4-bromophenyl)-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 0.256 mmol, 100 mg | BrC1=CC=C(C=C1)N1C(NN=C1C[C@H]1CN(CC1)C(=O)C1CC1)=O | C17H19BrN4O2
reactant | [4-(methyloxy)phenyl]boronic acid | 0.511 mmol, 78 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | tripotassium phosphate | 1.022 mmol, 217 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
solvent | water | 4.00 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.026 mmol, 29.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-4-[4′-(methyloxy)-4-biphenylyl]-2,4-dihydro-3H-1,2,4-triazol-3-one | 78 mg, 72.2% | C1(CC1)C(=O)N1C[C@@H](CC1)CC=1N(C(NN1)=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C24H26N4O3
